US07321040B2
N-[2-(3-Isopropyl-[1,2,4]triazolo[4,3-a]pyridin-6-ylsulfanyl)-benzyl]-acetamide
To a solution of 2-(3-Isopropyl-[1,2,4]triazolo[4,3-a]pyridin-6-ylsulfanyl)-benzylamine (30 mg, 0.1 mmol) in dichloromethane (400 μL) was added pyridine (16 μL, 0.2 mmol) and acetic anhydride (9 μL, 0.1 mmol) and the reaction stirred for 25 minutes at ambient temperature. The reaction was concentrated in vacuo to an oily residue. The residue was purified by flash chromatography (eluting with 10% methanol/ethyl acetate), followed by trituration with diethyl ether to yield the title compound as a white solid (23 mg, 68%). MS (M+1)=341.4.

reactant | 2-(3-Isopropyl-[1,2,4]triazolo[4,3-a]pyridin-6-ylsulfanyl)-benzylamine | 0.1 mmol, 30 mg | C(C)(C)C1=NN=C2N1C=C(C=C2)SC2=C(CN)C=CC=C2 | C16H18N4S
reactant | pyridine | 0.2 mmol, 16 μL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.1 mmol, 9 μL | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 400 μL | ClCCl | CH2Cl2
product | N-[2-(3-Isopropyl-[1,2,4]triazolo[4,3-a]pyridin-6-ylsulfanyl)-benzyl]-acetamide | 23 mg, 68% | C(C)(C)C1=NN=C2N1C=C(C=C2)SC2=C(CNC(C)=O)C=CC=C2 | C18H20N4OS
